US07846960B2
{4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amine
HCl/dioxane (4 N, 3.7 mL) is added to a solution of {4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-carbamic acid tert-butyl ester (1.92 g, 3.71 mmol) in methylene chloride (40 mL) at room temperature. After 2 h of stirring, the mixture is concentrated and worked up with ethyl acetate and saturated aqueous sodium bicarbonate. The organic layers are washed with brine and dried over sodium sulfate to provide 1.50 g (97%) of the title compound as an oil. MS m/e 418.0 (M+1).

reactant | HCl dioxane | 4 N, 3.7 mL | Cl.O1CCOCC1
reactant | {4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-carbamic acid tert-butyl ester | 3.71 mmol, 1.92 g | C(C)(C)(C)OC(N(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F)C)=O | C27H30F3N3O4
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | {4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amine | 1.50 g, 97% | C1(CC1)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC(=C(C=C1)NC)C | C22H22F3N3O2
